US08071608B2
To a stirred solution of 2.5 M Butyllithium in hexanes (13.79 mL, 34.47 mmol) at −20° C. was added dropwise 2,2,6,6-tetramethylpiperidine (5.82 mL, 34.47 mmol) in THF (30 mL). This was stirred for 30 minutes. This solution was cooled down to −78° C., and a solution of 1-bromo-3-chlorobenzene (6 g, 31.34 mmol) in THF (20 mL) was added dropwise so as to maintain the temperature at <−70° C. After 2 hours (Z)-di-tert-butyl diazene-1,2-dicarboxylate (10.82 g, 47.01 mmol) in THF (30 mL) added dropwise at −78° C. Stirred at this temperature for 2 hours, then allowed to warm to room temperature overnight. Water (150 mL) added. The mixture was extracted with EtOAc (2×300 mL). The extracts were combined, washed with brine (100 mL), dried (MgSO4) and reduced go give a residue which was purified by flash silica chromatography, elution gradient 0-10% EtOAc in hexane. Fractions containing suspected product were combined, and reduced to give di-tert-butyl 1-(2-bromo-6-chlorophenyl)hydrazine-1,2-dicarboxylate (9.59 g, 72.5%) 1H NMR (400 MHz, DMSO) δ 1.30-1.50 (18H, s), 7.28 (1H, m), 7.55 (1H, dd), 7.67 (1H, dd), 9.18 (1H, s). m/z (ES+) (M+Na)+=443; HPLC tR=10.76 min.

reactant | Butyllithium | 2.5 M | C(CCC)[Li]
reactant | 2,2,6,6-tetramethylpiperidine | 34.47 mmol, 5.82 mL | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | 1-bromo-3-chlorobenzene | 31.34 mmol, 6 g | BrC1=CC(=CC=C1)Cl | C6H4BrCl
reactant | (Z)-di-tert-butyl diazene-1,2-dicarboxylate | 47.01 mmol, 10.82 g | N(=N/C(=O)OC(C)(C)C)/C(=O)OC(C)(C)C | C10H18N2O4
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | Water | 150 mL | O | H2O
product | di-tert-butyl 1-(2-bromo-6-chlorophenyl)hydrazine-1,2-dicarboxylate | 9.59 g, 72.5% | BrC1=C(C(=CC=C1)Cl)N(NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C16H22BrClN2O4
